US07491722B2
5-Acetyl-2-ethyl-4-[(5-methylisoxazol-3-yl)amino]-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al., J. Med. Chem. 1997, 40, 1417) in ethanol (4 mL), 3-amino-5-methylisoxazol (96 mg, 0.978 mmol) was added. The resulting mixture was stirred, at room temperature for four days and the final product was collected by filtration and washed with diethylether to yield the title compound (35 mg, 37.2% yield).

reactant | 5-acetyl-2-ethyl nitro-6-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 3-amino-5-methylisoxazol | 0.978 mmol, 96 mg | NC1=NOC(=C1)C | C4H6N2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-[(5-methylisoxazol-3-yl)amino]-6-phenylpyridazin-3(2H)-one | 35 mg, 37.2% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=NOC(=C1)C | C18H18N4O3
